US06147098
N-Cyano-N'-(3,5-bis(trifluoromethyl)phenyl)-N"-(cyclopentyl)guanidine
To a suspension of N-(3,5-bis(trifluoromethyl)phenyl)-N'-cyano-O-phenylisourea (0.400 g, 1.1 mmol) in dry acetonitrile (2.5 ml) triethylamine (0.164 ml, 1.2 mmol) and cyclopentylamine (0.116 ml, 1.2 mmol) was added. The homogenous solution was stirred at 85° C. under N2 for 3.5 h. The solvent was evaporated, and the residue was dissolved in ethyl acetate and washed with water twice. The organic layer was dried (Na2SO4) and concentrated. The crude product was purified by flash chromatography using ethyl acetate/heptane 1:2 to give the title compound. Yield 82% (0.320 g). mp 156-159° C.

reactant | N-(3,5-bis(trifluoromethyl)phenyl)-N'-cyano-O-phenylisourea | 1.1 mmol, 0.400 g | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(OC1=CC=CC=C1)=NC#N)(F)F | C16H9F6N3O
reactant | acetonitrile | 1.2 mmol, 2.5 ml | C(C)#N | C2H3N
reactant | cyclopentylamine | 1.2 mmol, 0.116 ml | C1(CCCC1)N | C5H11N
product | N-Cyano-N'-(3,5-bis(trifluoromethyl)phenyl)-N"-(cyclopentyl)guanidine | Yield 82% | C(#N)NC(=NC1CCCC1)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C15H14F6N4
